US05854232
1-Adamantan-1-yl 3.3-bis-pyridin-4-ylmethyl-pyrrolidine-2-one
Under N2 atmosphere were combined N-adamantan-1-yl-4-hydroxy-2,2-bis-pyridin4-ylmethyl-butyramide (50 mg, 0.24 mmol), triphenylphosphine (63 mg, 0.24 mmol), and diisopropylazodicarboxylate (0.047 ml, 0.24 mmol) in 5 ml THF and the resulting solution was allowed to stir for 18 hours. The reaction mixture was then placed directly on a silica gel column and eluted with 85:15 mix of EtOAc/MeOH to yield 46 mg of product as a gum which in turn could be crystallized from isopropylether/hexane to yield the desired product as a white solid, m.p. 163.5°-165° C.

reactant | N-adamantan-1-yl-4-hydroxy-2,2-bis-pyridin4-ylmethyl-butyramide | 0.24 mmol, 50 mg | C12(CC3CC(CC(C1)C3)C2)NC(C(CCO)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H33N3O2
reactant | triphenylphosphine | 0.24 mmol, 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.24 mmol, 0.047 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-Adamantan-1-yl 3.3-bis-pyridin-4-ylmethyl-pyrrolidine-2-one | 46 mg | C12(CC3CC(CC(C1)C3)C2)N2C(C(CC2)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O
